US08309580B2
(6) methyl 4-{[cyclohexyl(2-ethyl-5-formylthiophen-3-yl)methyl]amino}benzoate
To a mixture of 2-{4-[chloro(cyclohexyl)methyl]-5-ethylthiophen-2-yl}-1,3-dioxolane (3.08 g) synthesized above, methyl 4-aminobenzoate (2.96 g), sodium iodide (2.98 g) and N,N-dimethylacetamide (60 mL) sodium carbonate (2.08 g) was added, and the mixture was stirred overnight at 100° C. under an argon atmosphere. Water was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% ethyl acetate/hexane) to give a yellow oil. To a solution of the obtained oil in tetrahydrofuran (40 mL) was added 1N hydrochloric acid (10 mL), and the mixture was stirred at room temperature for 1 hr. Tetrahydrofuran was evaporated using evaporator, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (40% ethyl acetate/hexane) to give the title compound (2.05 g, 54%) as a yellow solid.

reactant | 2-{4-[chloro(cyclohexyl)methyl]-5-ethylthiophen-2-yl}-1,3-dioxolane | 3.08 g | ClC(C=1C=C(SC1CC)C1OCCO1)C1CCCCC1 | C16H23ClO2S
reactant | methyl 4-aminobenzoate | 2.96 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | sodium iodide | 2.98 g | [I-].[Na+]
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | N,N-dimethylacetamide | 60 mL, 2.08 g | CN(C(C)=O)C | C4H9NO
product | methyl 4-{[cyclohexyl(2-ethyl-5-formylthiophen-3-yl)methyl]amino}benzoate | 2.05 g, 54% | C1(CCCCC1)C(C1=C(SC(=C1)C=O)CC)NC1=CC=C(C(=O)OC)C=C1 | C22H27NO3S
